US07285518B2
Preparation of N-1,3-benzodioxol-5-yl-1,3-benzodioxol-5-amine
To a flask equipped with a magnetic stirrer, reflux condensor, and nitrogen inlet was added 3,4-(methylenedioxy) aniline (5.34 grams, 38.9 mmoles), 4-bromo-1,2-(methylenedioxy) benzene (6.41 grams, 31.9 mmoles), tris(dibenzylideneacetone)dipalladium (0) (0.71 grams, 0.8 mmoles), 1,1′-bis(diphenylphosphino)-ferrocene (1.29 grams, 2.3 mmoles), sodium tert-butoxide (4.20 grams, 43.7 mmoles) and anhydrous toluene (40 mL). The contents of the flask were heated to 80° C. for three days; cooled to room temperature; and filtered through a pad of silica gel. The silica gel pad was then eluted with dichloromethane (240 mL). The combined organic layers were concentrated in vacuo to yield a dark yellow oil. The oil was chromatographed on silica gel, eluting with a hexane/ethyl acetate gradient to afford 6 grams of yellow solid. The solid was triturated with hexane and filtered to afford 3.9 grams of the desired product as a white solid. 1H NMR (CDCl3) δ 6.7 (d, 2H), 6.55 (s, 2H), 6.35 (d, 2H), 5.85 (s, 4H), 5.35 (bs, 1H).

reactant | 3,4-(methylenedioxy) aniline | 38.9 mmoles, 5.34 grams | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | 4-bromo-1,2-(methylenedioxy) benzene | 31.9 mmoles, 6.41 grams | BrC1=CC2=C(C=C1)OCO2 | C7H5BrO2
reactant | sodium tert-butoxide | 43.7 mmoles, 4.20 grams | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.8 mmoles, 0.71 grams | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene | 2.3 mmoles, 1.29 grams | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | N-1,3-benzodioxol-5-yl-1,3-benzodioxol-5-amine | 6 grams | O1COC2=C1C=CC(=C2)NC2=CC1=C(OCO1)C=C2 | C14H11NO4
